US09359340B2
1.0M of titanium tetrachloride in DCM (30.9 mL, 30.9 mmol) was added dropwise to a solution of (R)-4-benzyl-3-(2-(5-chlorothiophen-2-yl)acetyl)oxazolidin-2-one (9.43 g, 28.1 mmol) in DCM (170 mL) at −78° C., followed by N,N-diisopropylethylamine (9.78 mL, 56.2 mmol). The resulting dark blue mixture was stirred at −78° C. for 1 hour. tert-Butyl isopropyl(methoxymethyl)carbamate (11.4 g, 56.2 mmol) was then added. The mixture was stirred at −78° C. for 1 hour, and then allowed to warm up to room temperature. The mixture was stirred at room temperature for 2 hours, quenched with saturated NH4Cl (300 mL), and extracted with DCM (3×200 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude product was purified by silica gel chromatography eluting with EtOAc/hexane (0-20%) to give tert-butyl (S)-3-((R)-4-benzyl-2-oxooxazolidin-3-yl)-2-(5-chlorothiophen-2-yl)-3-oxopropyl(isopropyl)carbamate (10.2 g, 72%). MS (APCI+) [M+H]+ 507.2. 1H NMR (CDCl3, 400 MHz) δ 7.36-7.22 (m, 5H), 6.79 (d, J=4.0 Hz, 1H), 6.75 (d, J=4.0 Hz, 1H). 4.67-4.62 (m, 1H), 4.15-4.09 (m, 4H), 3.45-3.38 (m, 2H), 2.80-2.72 (m, 1H), 1.49 (s, 9H), 1.12 (d, J=6.0 Hz, 3H), 1.05 (d, J=6.0 Hz, 3H).

reactant | (R)-4-benzyl-3-(2-(5-chlorothiophen-2-yl)acetyl)oxazolidin-2-one | 28.1 mmol, 9.43 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CC=1SC(=CC1)Cl)=O | C16H14ClNO3S
reactant | N,N-diisopropylethylamine | 56.2 mmol, 9.78 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-Butyl isopropyl(methoxymethyl)carbamate | 56.2 mmol, 11.4 g | C(C)(C)N(C(OC(C)(C)C)=O)COC | C10H21NO3
solvent | DCM | 170 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 1.0M | [Ti](Cl)(Cl)(Cl)Cl
solvent | DCM | 30.9 mmol, 30.9 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (S)-3-((R)-4-benzyl-2-oxooxazolidin-3-yl)-2-(5-chlorothiophen-2-yl)-3-oxopropyl(isopropyl)carbamate | 10.2 g, 72% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@H](CN(C(OC(C)(C)C)=O)C(C)C)C=1SC(=CC1)Cl)=O | C25H31ClN2O5S
